US04661620
The procedures of Example 27 were exactly followed except that p-chlorostyrene and ethanol were used respectively instead of styrene and methanol and the amount of palladium chloride was changed to 0.1 millimole. Ethyl 4-chlorocinnamate was obtained with a yield of 60.2%.

reactant | p-chlorostyrene | ClC1=CC=C(C=C)C=C1 | C8H7Cl
reactant | ethanol | C(C)O | C2H6O
reactant | styrene | C=CC1=CC=CC=C1 | C8H8
reactant | methanol | CO | CH4O
catalyst | palladium chloride | [Pd](Cl)Cl
product | Ethyl 4-chlorocinnamate | yield of 60.2% | ClC1=CC=C(C=CC(=O)OCC)C=C1 | C11H11ClO2
